US06706709B2
To a solution of 5-(2-tert-butoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester (1.6 g, 5 mmol) in dichloromethane (12 mL) was added 8 mL of 40% trifluoroacetic acid. The mixture was stirred at room temperature for 1 hour. The reaction was concentrated, dissolved in toluene, concentrate, dissolved in dichloromethane and concentrated to give 1.3 g (99%) of 5-(2-carboxy-ethyl)-1H-indole-2-carboxylic acid ethyl ester.

reactant | 5-(2-tert-butoxycarbonyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 5 mmol, 1.6 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(=O)OC(C)(C)C | C18H23NO4
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 5-(2-carboxy-ethyl)-1H-indole-2-carboxylic acid ethyl ester | 1.3 g, 99% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)CCC(=O)O | C14H15NO4
